US06599902B2
Trifluoroacetic acid (5 mL) was added to a solution of (S)-2-((R)-3-fluoro-pyrrolidin-1-ylcarbonyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (700 mg, 2.4 mmol) in dichloromethane (5 mL). After stirring at room temperature for 2 h, the reaction mixture was concentrated. The residue was dissolved in methanol-water (1:1), neutralized to pH>10 with OH− formed resin. After concentration, 400 mg (89%) of ((R)-3-fluoro-pyrrolidin-1-yl)-(S)-pyrrolidin-2-yl-methanone was obtained.

reactant | Trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | (S)-2-((R)-3-fluoro-pyrrolidin-1-ylcarbonyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 2.4 mmol, 700 mg | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C(=O)N1C[C@@H](CC1)F | C14H23FN2O3
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | ((R)-3-fluoro-pyrrolidin-1-yl)-(S)-pyrrolidin-2-yl-methanone | 400 mg, 89% | F[C@H]1CN(CC1)C(=O)[C@H]1NCCC1 | C9H15FN2O
